US04464531
To a solution of 41.60 g of p-nitrobenzylamine in 660 ml of dry ethanol was added 49.34 g of α-bromomalonamide and 38.2 ml of triethylamine. After being stirred for two hours under refluxing, the reaction mixture was cooled to room temperature. And then separated crystals were filtered off, washed with ethanol and isopropyl ether, and dried to give 53.36 g of α-(4-nitrobenzyl)aminomalonamide. And a mixture of 50.45 g of α-(4-nitrobenzyl)aminomalonamide, 177.8 g of triethyl orthoformate and 0.76 g of p-toluenesulfonic acid monohydrate in 1.3 liters of dry ethanol was stirred for three hours under refluxing in an argon atmosphere. The reaction mixture was cooled on an ice-bath and separated crystals were filtered off, washed with ethanol and isopropyl ether, and dried to give 50.78 g of 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate.

reactant | α-(4-nitrobenzyl)aminomalonamide | 50.45 g | [N+](=O)([O-])C1=CC=C(CNC(C(=O)N)C(=O)N)C=C1 | C10H12N4O4
reactant | triethyl orthoformate | 177.8 g | C(OCC)(OCC)OCC | C7H16O3
solvent | ethanol | 1.3 liters | C(C)O | C2H6O
catalyst | p-toluenesulfonic acid monohydrate | 0.76 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate | 50.78 g | C(N)(=O)C1=C(NC=[N+]1CC1=CC=C(C=C1)[N+](=O)[O-])[O-] | C11H10N4O4
